US06114532
a. dichloro-(4-chlorphenyl)-phosphine
To a suspension of 53.3 g (0.4 mol) of aluminium chloride in 40 ml (0.39 mol) of chlorobenzene, 104.8 ml (1.2 mol) of phosphorus trichloride are added dropwise at ambient temperature. The reaction mixture is refluxed for three hours. Then within 30 minutes 37.2 ml (0.4 mol) of phosphorus oxychloride are added dropwise at 83° C. After 12 hours at ambient temperature the residue is stirred with petroleum ether and decanted off. The combined organic extracts are distilled under high vacuum at 57-61° C. and 0.048-0.035 mbar.

reactant | aluminium chloride | 0.4 mol, 53.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 0.39 mol, 40 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | phosphorus trichloride | 1.2 mol, 104.8 ml | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorus oxychloride | 0.4 mol, 37.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | dichloro-(4-chlorphenyl)-phosphine | ClP(C1=CC=C(C=C1)Cl)Cl | C6H4Cl3P
